US05015658
4-((4,4-dimethyl-6-thiochromanoyloxy)benzoic acid
To a stirred solution of 580 mg (1.34) of benzyl 4-(4,4-dimethyl-6-thiochromanoyloxy)benzoate in 12 ml of methylene chloride at -10° C. under nitrogen was added slowly 1.24 ml of a 1.0M (1.24 mmol) solution of boron tribromide in methylene chloride. The reaction mixture was stirred at -10° C. for a further 2 h and then was quenched by the addition of ice. The organic layer was separated and the aqueous layer extracted with 2×25 ml methylene chloride. The organic extracts were combined and then washed with water and dried (MgSO4). The solution was then filtered and the solvent removed in-vacuo. The resultant residue was purified by flash chromatography (silica; 20% ethyl acetate in hexane followed by 100% ethyl acetate) and then recrystallization from a mixture of ethyl acetate and ethanol to give the title compound as a white solid. PMR (CDCl3): δ1.39 (6H, s), 2.10 (2H, m), 3.10 (2 H, m), 7.21 (1H, d, J~8.4 Hz), 7.28 (2H, d, J~8.7 Hz), 7.82 (1H, dd, J~8.4, 2.1 Hz), 8.14 (2H, d, J~8.7 Hz), 8.16 (1H, d, J~2.1 Hz).

reactant | benzyl 4-(4,4-dimethyl-6-thiochromanoyloxy)benzoate | 580 mg | CC1(CCSC2=CC=C(C=C12)C(=O)OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1)C | C26H24O4S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
product | (4,4-dimethyl-6-thiochromanoyloxy)benzoic acid | CC1(CCSC2=CC=C(C=C12)C(=O)OC1=C(C(=O)O)C=CC=C1)C | C19H18O4S
